US07329662B2
5-(3-Methyl-4-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine
Reaction of 1-(3-methyl-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione (149 mg, 0.5 mmol), prepared from 3-methyl-4-trifluoromethyl-acetophenone (synthesis: see part acetophenone derivatives) according to general procedure A, and 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole [see part synthesis of amino-pyrazole derivatives] (87 mg, 0.5 mmol) according to general procedure B yielded the title compound as a yellow solid (113 mg, 52%). MS (ISP) 437.5 [(M+H)+]; mp 237° C.

reactant | 1-(3-methyl-4-trifluoromethyl-phenyl)-4,4,4-trifluoro-butane-1,3-dione | 0.5 mmol, 149 mg | CC=1C=C(C=CC1C(F)(F)F)C(CC(C(F)(F)F)=O)=O | C12H8F6O2
reactant | 3-amino-4-(2-methyl-4-pyridinyl)-pyrazole | 0.5 mmol, 87 mg | NC1=NNC=C1C1=CC(=NC=C1)C | C9H10N4
product | 5-(3-Methyl-4-trifluoromethyl-phenyl)-3-(2-methyl-pyridin-4-yl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine | 113 mg, 52% | CC=1C=C(C=CC1C(F)(F)F)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C2=CC(=NC=C2)C | C21H14F6N4
